Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])=[C:7]([H:8])[H:9]>>[C:5]([H:6])=[C:7]([H:8])[H:9].[O:1][C:2]#[C:3][H:4],4.87812273132
[O:1]=[C:2]1[C:3]([H:4])[O:5][C:6]1[H:7]>>[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6][H:7],0.5442080393800001
[H:1].[O:2]=[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-0.651927057028
[H:1][C:2]#[C:3].[O:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10]>>[H:1][C:2]#[C:3][O:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10],-3.14039733771
[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3][C:11]([H:12])([H:13])[H:14]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-5.06428931
[H:13].[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13],-4.64564080834
[O:1]=[C:2]=[C:3]([H:4])/[C:5]=[C:6](/[H:7])[O:8][H:9]>>[C:3]([H:4])#[C:5][C:6]([H:7])[O:8][H:9].[O:1]=[C:2],0.495232390109
[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[H:1][C:2]1([H:3])[C:4][O:5][C:6]([H:7])([H:8])[C:9]1([H:10])[H:11],-2.32510658942
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])=[C:8]=[C:9]([H:10])[H:11].[H:7],1.84723453825
[H:1][C:2][H:3].[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-5.151048236269999
[C:1]=[C:2]1[O:3][C:4]([H:5])([H:6])[C:7]=[C:8]1[H:9]>>[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9],0.044738299960000005
[H:1][C:2]([H:3])=[C:4][O:6][C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14].[H:5]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],-4.80329981301
[H:1][C:2]([H:3])[C:4]#[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:5][C:7][H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.63124918568
[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13],-1.0802645888
[O:1]=[C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])[C:10]([H:11])([H:12])[H:13].[O:8][H:9]>>[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13],-3.04151160186
[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[O:11][H:12]>>[C:3]([H:4])=[C:5]([H:6])[C:7][C:8]([H:9])([H:10])[O:11][H:12].[H:1][C:2],8.20144259796
[H:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19]>>[C:10]([H:11])([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19].[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[H:9],4.35294504208
[H:1][C:2][O:3][C:4]([C:5]#[C:6][H:7])=[C:8]([H:9])[H:10]>>[C:5]#[C:6][H:7].[H:1][C:2][O:3][C:4]=[C:8]([H:9])[H:10],6.17547575889
[H:1][C:2][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-5.22140746301
[H:1].[O:2][O:3][C:4](=[C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][O:3][C:4](=[C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-3.65310850102
[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-6.73843755707
[H:1][C:2]([H:3])[O:4][C:5]#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[C:5]#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[H:1][C:2]([H:3])=[O:4],1.86882607884
[C:3]#[C:4][C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11].[H:1][O:2]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11],-4.97720459585
[O:1]=[C:2][C:9]([C:7](=[C:6]=[C:3]([H:4])[H:5])[H:8])([H:10])[H:11]>>[O:1]=[C:2]1[C:3]([H:4])([H:5])[C:6]=[C:7]([H:8])[C:9]1([H:10])[H:11],-0.58454631548
[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][H:7]>>[C:2]([H:3])=[C:4]([H:5])[O:6][H:7].[O:1],6.059989932330001
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])[C:5]([H:6])=[O:7],3.36105050316
[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])=[C:8]([H:9])[H:10],2.53750218526
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1][C:2]=[C:12]([H:13])[H:14].[H:3][C:5](=[C:4]=[C:10]([C:7]([H:8])[H:9])[H:11])[H:6],3.86753962065
[C:5]([H:6])([H:7])=[C:8][C:9]([H:10])([H:11])[H:12].[O:1]=[C:2]([H:3])[O:4]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12],-1.3277435979
